US07855290B2
1-(2-Fluorophenylcarbamoyl)cyclopropanecarboxylic acid
1,1-Cyclopropanedicarboxylic acid (2.5 g) was dissolved in tetrahydrofuran (25 ml) under a nitrogen atmosphere, triethylamine (2.68 ml) was added dropwise thereto while stirring in an ice water bath. After stirring at the same temperature for 30 min, thionyl chloride (1.4 ml) was added dropwise while stirring in an ice water bath. After stirring at the same temperature for 30 min, a solution of 2-fluoroaniline (2.04 ml) in tetrahydrofuran (15 ml) was added while stirring in an ice water bath, and the reaction mixture was allowed to gradually warm up to room temperature and stirred overnight. To the reaction mixture was added a 2N aqueous solution of sodium hydroxide (75 ml), and tetrahydrofuran was removed under reduced pressure. To the resultant aqueous solution was added tert-butyl methyl ether (25 ml) and stirred. The organic layer and aqueous layer were separated. The aqueous layer was cooled in an ice water bath, 5N hydrochloric acid (30 ml) was added and stirred. The precipitated solid was collected by filtration and washed with water. Drying under aeration and hot-air drying at 60° C. for 8 hr provided the titled compound as white powder (2.294 g, 54%).

reactant | 1,1-Cyclopropanedicarboxylic acid | 2.5 g | C1(CC1)(C(=O)O)C(=O)O | C5H6O4
reactant | thionyl chloride | 1.4 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-fluoroaniline | 2.04 ml | FC1=C(N)C=CC=C1 | C6H6FN
reactant | sodium hydroxide | 75 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 2.68 ml | C(C)N(CC)CC | C6H15N
product | 1-(2-Fluorophenylcarbamoyl)cyclopropanecarboxylic acid | 2.294 g, 54% | FC1=C(C=CC=C1)NC(=O)C1(CC1)C(=O)O | C11H10FNO3
